US08114868B2
To a suspension of NaH (80 mg, 2 mmol) in THF (10 mL) was added 4-bromopyridin-2-ol (80 mg, 0.46 mmol) at 0° C. The resulting mixture was stirred for 1 h. Then CH3I (355 mg, 2.5 mmol) was added to the above mixture, and the mixture was stirred overnight. The reaction was quenched with aqueous NH4Cl solution. The organic phase was concentrated to give the crude product, which was purified by column to give 4-bromo-1-methylpyridin-2(1H)-one (42.3 mg, 50%).

reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | 4-bromopyridin-2-ol | 0.46 mmol, 80 mg | BrC1=CC(=NC=C1)O | C5H4BrNO
reactant | CH3I | 2.5 mmol, 355 mg | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-bromo-1-methylpyridin-2(1H)-one | 42.3 mg, 50% | BrC1=CC(N(C=C1)C)=O | C6H6BrNO
